US06790865B2
To a stirred solution of 4′-(2-hydroxyethyl)-2,2,2-trifluoroacetanilide (5.9 g) in tetrahydrofuran (20 ml) and dichloromethane (20 ml) were added N,N-diisopropylethylamine (5.7 ml) and benzyl chloromethyl ether (3.9 ml) under ice-cooling, and the mixture was stirred for 24 hours at room temperature. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. Removal of the solvent under reduced pressure gave 4′-[2-(benzyloxymethoxy)ethyl]-2,2,2-trifluoroacetanilide (9.7 g).

reactant | 4′-(2-hydroxyethyl)-2,2,2-trifluoroacetanilide | 5.9 g | OCCC1=CC=C(NC(C(F)(F)F)=O)C=C1 | C10H10F3NO2
reactant | N,N-diisopropylethylamine | 5.7 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl chloromethyl ether | 3.9 ml | ClCOCC1=CC=CC=C1 | C8H9ClO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4′-[2-(benzyloxymethoxy)ethyl]-2,2,2-trifluoroacetanilide | 9.7 g | C(C1=CC=CC=C1)OCOCCC1=CC=C(NC(C(F)(F)F)=O)C=C1 | C18H18F3NO3
